US04316906
Hydrolysis of (cis)-1-(4-acetylthio-1-oxobutyl)-4-methoxy-L-proline with an aqueous ammonia solution according to the procedure of Example 2 yields 1-(4-mercapto-1-oxobutyl)-cis-4-methoxy-L-proline.

reactant | (cis)-1-(4-acetylthio-1-oxobutyl)-4-methoxy-L-proline | C(C)(=O)SCCCC(=O)N1[C@H](C(=O)O)C[C@@H](C1)OC | C12H19NO5S
reactant | ammonia | N | H3N
product | 1-(4-mercapto-1-oxobutyl)-cis-4-methoxy-L-proline | SCCCC(=O)N1[C@H](C(=O)O)C[C@@H](C1)OC | C10H17NO4S
